US04556413
A solution of 38.01 g of 5-(o-chloro-p-trifluoromethyl-phenoxy)-2-nitrobenzoyl chloride in 125 ml of absolute 1,2-dimethoxyethane is added dropwise at 10°-15° C. while stirring during 30 minutes to a suspension of the dimethyl sulphoximine potassium salt in 250 ml of absolute 1,2-dimethoxyethane. The mixture is stirred at room temperature for 24 hours and subsequently evaporated to dryness under reduced pressure. The resinous residue is dissolved in 1.25 l of diethyl ether, the solution is filtered through Celite and the filtrate is evaporated to dryness. The residue is subsequently purified by chromatography on silica gel with methylene chloride. There is obtained N-[5-(o-chloro-p-trifluoromethyl-phenoxy)-2-nitrobenzoyl]-S,S-dimethyl-sulphoximine as colourless crystals, m.p. 126°-127° C.; 1H-NMR (CDCl3): 7.99 (d,1H), 7.80 (d,1H), 7.60 (q,1H), 7.23 (d,1H) 7.14 (d,1H), 7.02 (q,1H) and 3.40 (s,6H).

reactant | 5-(o-chloro-p-trifluoromethyl-phenoxy)-2-nitrobenzoyl chloride | 38.01 g | ClC1=C(OC=2C=CC(=C(C(=O)Cl)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H6Cl2F3NO4
reactant | dimethyl sulphoximine potassium salt | [K].CS(=O)(=N)C
solvent | 1,2-dimethoxyethane | 125 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 250 ml | COCCOC | C4H10O2
product | N-[5-(o-chloro-p-trifluoromethyl-phenoxy)-2-nitrobenzoyl]-S,S-dimethyl-sulphoximine | ClC1=C(OC=2C=CC(=C(C(=O)N=S(=O)(C)C)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C16H12ClF3N2O5S
